US04822805
To a solution 1-hydroxyimino-1-(3-pyridyl)acetone (0.5 g) in acetic acid (10 ml) was added 2-fluorobenzaldehyde (0.76 g) and ammonium acetate (2.35 g), and refluxed for 30 minutes. Then, the solution was poured into water (75 ml), neutrallized with aqueous potassium carbonate, and extracted with ethyl acetate. The extract was dried over magnesium sulfate and concentrated, and the residue was triturated with diisopropyl ether to give 2-(2-fluorophenyl)-1-hydroxy-4-methyl-5-(3-pyridyl)imidazole (0.23 g).

reactant | 1-hydroxyimino-1-(3-pyridyl)acetone | 0.5 g | ON=C(C(=O)C)C=1C=NC=CC1 | C8H8N2O2
reactant | 2-fluorobenzaldehyde | 0.76 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | ammonium acetate | 2.35 g | C(C)(=O)[O-].[NH4+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | 75 ml | O | H2O
product | 2-(2-fluorophenyl)-1-hydroxy-4-methyl-5-(3-pyridyl)imidazole | 0.23 g | FC1=C(C=CC=C1)C=1N(C(=C(N1)C)C=1C=NC=CC1)O | C15H12FN3O
